US05073550
2.24 g of methyl 7-mercapto-5-methyl-s-tria-zolo[1,5-a]-pyrimidine-2-carboxylate were suspended in 350 ml of tetrahydrofuran and treated at 2° within 15 minutes with 40 ml of a 1M diisobutylaluminium hydride/hexane solution. The reaction mixture was stirred at 2° for 10 minutes and subsequently treated with ice. The reaction mixture was concentrated extensively, the residue was taken up in 30 ml of water, and the solution was acidified to pH 1.2 with concentrated hydrochloric acid. The solid was collected by filtration and dried in a high vacuum. There was obtained 7-mercapto-5-methyl-s-tria-zolo[1,5-a]pyrimidine-2-methanol of melting point 233° (dec.).

reactant | methyl 7-mercapto-5-methyl-s-tria-zolo[1,5-a]-pyrimidine-2-carboxylate | 2.24 g | SC1=CC(=NC=2N1N=C(N2)C(=O)OC)C | C8H8N4O2S
reactant | diisobutylaluminium hydride hexane | 1M | [H-].C(C(C)C)[Al+]CC(C)C.CCCCCC
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 7-mercapto-5-methyl-s-tria-zolo[1,5-a]pyrimidine-2-methanol | SC1=CC(=NC=2N1N=C(N2)CO)C | C7H8N4OS
